US05733882
a) Boc-valineamide
To a solution of di-t-butyl-dicarbonate (7.15 g, 1 eq) in dry dichloromethane was added valinamide hydrochloride (5.0 g, 1 eq) and triethylamine (9.14 mL, 2 eq). The mixture was heated to reflux for 4 h, and cooled to room temperature. The organic layer was washed twice with water and evaporated to give the title compound (6.03 g, 85%). NMR(CDCl3) δ 6.00 (1H, br), 5.54 (1H, br), 5.01 (1H, br), 3.93 (1H, dd), 2.12 (1H, m), 1.44 (9H, s), 0.92 (6H, dd).

reactant | di-t-butyl-dicarbonate | 7.15 g, 1 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | valinamide hydrochloride | 5.0 g, 1 eq | Cl.N[C@@H](C(C)C)C(=O)N
reactant | triethylamine | 9.14 mL, 2 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | Boc-valineamide | 6.03 g, 85% | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)N | C10H20N2O3
